US07968570B2
4-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Diisopropylamine (8.4 mL, 60.0 mmol) was dissolved in anhydrous TH (250 mL) and the solution was chilled in an ice bath. To the solution was added dropwise 1.6M nBuLi in hexanes (38 mL, 60.0 mmol). After fifteen minutes, the ice bath was replaced with a dry ice/acetone bath and a solution of N-Boc-piperidone (9.96 g, 50.0 mmol) in anhydrous THF (120 mL) was added dropwise. After thirty minutes, a solution of N-phenyltrifluoromethanesulfonimide (19.6 g, 55.0 mmol) in anhydrous THF (60 mL) was added dropwise. After one hour, the chilling bath was removed. After three hours, the reaction was quenched with saturated sodium bicarbonate and diluted with ethyl acetate. The organic phase was washed twice with 1M sodium hydroxide and once with brine. It was dried over magnesium sulfate, filtered and stored overnight in the freezer. The following day, the product was concentrated and purified by column chromatography (5% EtOAc/Hexanes) on SiO2 pre-washed with 2% Et3N/hexanes, using permanganate stain to provide the title compound as a yellow oil (11.86 g, 75%).

reactant | Diisopropylamine | 60.0 mmol, 8.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 1.6M | [Li]CCCC
reactant | N-Boc-piperidone | 50.0 mmol, 9.96 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | N-phenyltrifluoromethanesulfonimide | 55.0 mmol, 19.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | THF | 120 mL | C1CCOC1 | C4H8O
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Trifluoromethanesulfonyloxy-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 11.86 g, 75% | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
